US06869949B2
10. (8R,9R)-8-Hydroxy-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one
30 ml of concentrated hydrochloric acid are added dropwise at room temperature in the course of 20 minutes to 29.8g (73.1 mmol) of (8R,9R)-8-(tert-butyldimethylsilanyloxy)-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one, dissolved in 30 ml of methanol. The mixture is stirred for a further 30 minutes at room temperature. The methanol is stripped off and the pH of the remaining solution is adjusted to 10 using 2M sodium hydroxide solution. The mixture is extracted three times with 30 ml of dichloromethane each time, the combined dichloromethane phases are washed once with 30 ml of water and the organic phase is dried over magnesium sulfate. The drying agent is filtered off, the filtrate is concentrated and the residue is brought to crystallization using diethyl ether. The crystallizate is filtered off with suction and dried in vacuo at 50° C. 12.2 g (57% of theory) of the title compound are obtained.

reactant | hydrochloric acid | 30 ml | Cl | ClH
reactant | (8R,9R)-8-(tert-butyldimethylsilanyloxy)-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one | 73.1 mmol | [Si](C)(C)(C(C)(C)C)O[C@@H]1[C@H](NC=2C=3N(C=CC2C1=O)C=C(N3)C)C3=CC=CC=C3 | C23H29N3O2Si
reactant | sodium hydroxide | 2M | [OH-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | (8R,9R)-8-Hydroxy-2-methyl-9-phenyl-7,8,9,10-tetrahydroimidazo[1,2-h][1,7]naphthyridin-7-one | O[C@@H]1[C@H](NC=2C=3N(C=CC2C1=O)C=C(N3)C)C3=CC=CC=C3 | C17H15N3O2
